US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-[(2-pyranyl)methoxy]-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg or 0.286 mmole) in 4 ml of tetrahydropyran-2-methanol was stirred at room temperature and under nitrogen for 45 minutes with 240 mg of a 1.6% solution of KOH in tetrahydropyran-2-methanol. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. The reaction mixture was chromatographed on a silica gel column using CHCl3 and then CHCl3 -MeOH 9.5:0.5. The product was further purified by preparative thin layer chromatography (silica gel, CHCl3 -MeOH 9.5:0.5). Thus, there was obtained 57 mg (46%) of the desired product having a melting point of 135°-138° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 0.286 mmole, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydropyran-2-methanol | 4 ml | O1C(CCCC1)CO | C6H12O2
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-[(2-pyranyl)methoxy]-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 57 mg, 46% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCC1OC=CC=C1)C)=O)CC1C2N1)OC | InChI=1S/C20H22N2O6.CH3NO2/c1-10-16(24)15-14(17(25)18(10)28-9-11-5-3-4-6-27-11)12(8-23)20(26-2)19-13(21-19)7-22(15)20;2-1(3)4/h3-6,11-13,19,21,23H,7-9H2,1-2H3;2H2,(H,3,4)
